US06541473B2
8-[2,4-bis(Methoxymethoxy)phenyl]-1,4-dioxaspiro[4.5]decan-8-ol
A round bottomed flask was loaded with 1-bromo-2,4-bis(methoxymethoxy)benzene (2.00 g) and THF (50 mL). N, N, N′, N′-Tetramethylethylene diamine (2.3 ml) was added and the solution was cooled to −78° C. n-Butyl lithium (9.5 ml, 1.6M in hexane) was added. The resulting solution was stirred for 1 hr at −78° C. and 1,4-cyclohexanedione monoethylene ketal (1.35 g) was added as a solution in THF (25 ml). The resulting solution was stirred at −78° C. for 1 hr and then allowed to warm to room temperature overnight. Hydrochloric acid (20 ml, 2M) was added and the reaction mixture stirred vigorously for 15 min. Ethyl acetate (100 ml) was added and the mixture poured into a separating funnel. The phases were separated and the aqueous phase was extracted with ethyl acetate (3×20 ml). The combined organic phases were washed with brine (20 ml), dried over anhydrous magnesium sulfate, filtered and concentrated affording an orange oil, which was purified by flash column chromatography (SiO2, ethyl acetate/petroleum ether, 45:55, v/v). The title product (1.42 g, 56%) was isolated as a colourless oil. m/z (ES+) 337 (M−H2O+H+); δH (CDCl3) 1.61-1.64(2H, m), 2.00-2.18(6H, m), 3.44(3H, s), 3.48(3H, s), 3.90-3.97(4H, m), 5.11(2H, s), 5.24(2H, s), 6.64(1H, dd), 6.82(1H, d), 7.20(1H, d).

reactant | 1-bromo-2,4-bis(methoxymethoxy)benzene | 2.00 g | BrC1=C(C=C(C=C1)OCOC)OCOC | C10H13BrO4
reactant | N, N, N′, N′-Tetramethylethylene diamine | 2.3 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-Butyl lithium | 1.6M, 9.5 ml | C(CCC)[Li]
reactant | 1,4-cyclohexanedione monoethylene ketal | 1.35 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | Hydrochloric acid | 2M, 20 ml | Cl | ClH
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 8-[2,4-bis(Methoxymethoxy)phenyl]-1,4-dioxaspiro[4.5]decan-8-ol | 1.42 g, 56% | COCOC1=C(C=CC(=C1)OCOC)C1(CCC2(OCCO2)CC1)O | C18H26O7
